US07279486B2
Step 1. tert-Butyl 5-fluoro-2-oxo-1,2-dihydro-1′H-spiro[indole-3,4′-piperidine]-1′-carboxylate
To a stirred solution of 5-fluoro-1,3-dihydro-2H-indol-2-one (1.80 g, 11.9 mmol) in tetrahydrofuran (30 mL) was added dropwise a 1 M solution of sodium bis(trimethylsilyl)amide in tetrahydrofuran (35.7 mL, 35.7 mmol) at −78° C. for 15 min and the mixture was stirred for 1.5 h at the same temperature. To the mixture was added dropwise a solution of tert-butyl bis(2-chloroethyl)carbamate (2.88 g, 11.9 mmol) in tetrahydrofuran (10 mL) at −78° C., then this resulting mixture was slowly warmed up to room temperature and stirred for 19 h at the same temperature. The reaction mixture was quenched by the addition of ammonium chloride aqueous solution, and concentrated to give a brown residue. The crude material was partitioned between ethyl acetate and water, and then the organic layer was washed with brine, dried over sodium sulfate, and evaporated. The residue was purified by column chromatography on silica gel (100 g) eluting with hexane/acetone (3/1) to afford 356 mg (15%) of the title compound as a slight brown syrup:

reactant | 5-fluoro-1,3-dihydro-2H-indol-2-one | 11.9 mmol, 1.80 g | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | tert-butyl bis(2-chloroethyl)carbamate | 11.9 mmol, 2.88 g | ClCCN(C(OC(C)(C)C)=O)CCCl | C9H17Cl2NO2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 35.7 mmol, 35.7 mL | O1CCCC1 | C4H8O
product | tert-Butyl 5-fluoro-2-oxo-1,2-dihydro-1′H-spiro[indole-3,4′-piperidine]-1′-carboxylate | 356 mg, 15% | CC(C)(C)OC(=O)N1CCC2(CC1)C3=C(C=CC(=C3)F)NC2=O | C17H21FN2O3
